US06380215B1
A solution of N-[(R)-(1-benzyloxycarbonyl-3-piperidyl)carbonyl]-2(S)-amino-β-alanine ethyl ester hydrochloride (300 mg) in dichloromethane (3 ml) was added triethylamine (222 μl) and benzoyl chloride (93 μl) under stirring at 0° C. After stirring at ambient temperature for 1 hour, the mixture was poured into water and extracted with dichloromethane. The extract was washed with water, saturated aqueous NaHCO3 solution, water and brine, and dried over MgSO4, and evaporated in vacuo. The residue was recrystallized from diethyl ether to give N-[(R)-(1-benzyloxycarbonyl-3-piperidyl)carbonyl]-2(S)-benzoylamino-β-alanine ethyl ester (349 mg).

reactant | N-[(R)-(1-benzyloxycarbonyl-3-piperidyl)carbonyl]-2(S)-amino-β-alanine ethyl ester hydrochloride | 300 mg | Cl.C(C)OC([C@H](CNC(=O)[C@H]1CN(CCC1)C(=O)OCC1=CC=CC=C1)N)=O
reactant | triethylamine | 222 μl | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 93 μl | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | O | H2O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | N-[(R)-(1-benzyloxycarbonyl-3-piperidyl)carbonyl]-2(S)-benzoylamino-β-alanine ethyl ester | 349 mg | C(C)OC([C@H](CNC(=O)[C@H]1CN(CCC1)C(=O)OCC1=CC=CC=C1)NC(C1=CC=CC=C1)=O)=O | C26H31N3O6
